US05571775
17. Preparation of 2-Hydrazino-3-nitropyridine
2-Chloro-3-nitropyridine (100 g, 0.63 mol), hydrazine monohydrate (70.4 mL, 72.6 g, 1.45 mol) and methanol (1.3 L) were mixed and heated to reflux with stirring. After 30 min the reaction mixture was cooled and filtered collecting the insoluble materials. The filtrate was concentrated by evaporation under reduced pressure and the residue obtained as well as the insoluble materials from the filtration were diluted with water. The insoluble solids present were collected by filtration, washed with water, and dried to obtain 95.2 g (98 percent of theory) of the title compound as a bright yellow powder melting at 168°-169° C.

reactant | 2-Chloro-3-nitropyridine | 0.63 mol, 100 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | hydrazine monohydrate | 1.45 mol, 70.4 mL, 72.6 g | O.NN
solvent | methanol | 1.3 L | CO | CH4O
product | 2-Hydrazino-3-nitropyridine | N(N)C1=NC=CC=C1[N+](=O)[O-] | C5H6N4O2
